US09328110B2
A solution of trimethylaluminum in toluene (80 mL of a 2 M solution, 160 mmol) was added dropwise to a stirred suspension of N,O-dimethylhydroxylamine hydrochloride (15.6 g, 160 mmol) in dichloromethane (150 mL) at 0° C. After 15 minutes, the reaction flask was removed from bath and the solution stirred for 15 minutes at room temperature. The flask was then cooled in ice bath, and a solution of ethyl 4-(2-propyl-1H-imidazo[4,5-c]quinolin-1-yl)butyrate (34.7 g, 107 mmol) in dichloromethane (100 mL) was added rapidly dropwise. After 15 minutes, the ice bath was removed and the solution heated at reflux to cause considerable gas evolution. After 20 hours, a 10% solution of hydrochloric acid in water (15 mL) was added slowly, followed by a saturated solution of sodium bicarbonate in water (50 mL). The layers were separated, and the aqueous mixture was extracted with dichloromethane (2×50 mL). The combined organic solutions were washed successively with a 5% solution of sodium hydroxide in water (2×50 mL) and a saturated solution of sodium bicarbonate in water (1×50 mL), dried over potassium carbonate, filtered, and concentrated under reduced pressure to provide N-methoxy-N-methyl-4-(2-propyl-1H-imidazo[4,5-c]quinolin-1-yl)butyramide (35.9 g) as a dark oil that was used directly in the next step without further purification.

reactant | trimethylaluminum | C[Al](C)C
reactant | N,O-dimethylhydroxylamine hydrochloride | 160 mmol, 15.6 g | Cl.CNOC
reactant | ethyl 4-(2-propyl-1H-imidazo[4,5-c]quinolin-1-yl)butyrate | 107 mmol, 34.7 g | C(CC)C=1N(C2=C(C=NC=3C=CC=CC23)N1)CCCC(=O)OCC | C19H23N3O2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | N-methoxy-N-methyl-4-(2-propyl-1H-imidazo[4,5-c]quinolin-1-yl)butyramide | 35.9 g | CON(C(CCCN1C(=NC=2C=NC=3C=CC=CC3C21)CCC)=O)C | C19H24N4O2
